US03978044
4-phenyl 4-cyanocylohexanone
In a flask they were introduced successively under nitrogen atmosphere 179.7 g of sodium 4-cyano 4-phenyl 2-methoxy carbonyl cyclohex-1-enolate, 450 ml water, 450 ml acetic acid then 180 ml hydrochloric acid. It appears a milky suspension which is heated to reflux under stirring. After 5 hours heating the evolution of carbon dioxide has ceased and a green homogeneous solution is obtained. After reverting to room temperature this solution is carefully neutralized by adding a 5 N solution of sodium hydroxide while maintaining the inner temperature at about 20° by means of a iced water bath.

reactant | sodium 4-cyano 4-phenyl 2-methoxy carbonyl cyclohex-1-enolate | 179.7 g | C(#N)C1(CC(=C(CC1)[O-])C(=O)OC)C1=CC=CC=C1.[Na+]
reactant | hydrochloric acid | 180 ml | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 450 ml | C(C)(=O)O | C2H4O2
solvent | water | 450 ml | O | H2O
product | 4-phenyl 4-cyanocylohexanone | C1(=CC=CC=C1)C1(CCC(CC1)=O)C#N | C13H13NO
